### PR TITLE
feat: API to interpret measures as real-valued functions

### PR DESCRIPTION
**Pull request by sgouezel**
Given a measure `μ`, we define a function `μ.real` such that `μ.real s` is the measure of `s` interpreted as a real number instead of an extended real number. The idea is to use it everywhere to get rid off the coercions from extended real numbers, but the PR only implements the basic API and does not connect it with the other files yet. Discussion on Zulip around https://leanprover.zulipchat.com/#narrow/stream/412902-Polynomial-Freiman-Ruzsa-conjecture/topic/comments.20on.20FiniteMeasure.20user-friendliness/near/402445458

### CODE REVIEW

File: PFR/MeasureReal.lean [hunk 1]
```diff
@@ -0,0 +1,378 @@
...
+    μ.real (s ∪ t) = μ.real s + μ.real t := by
+  simp only [Measure.real]
+  rw [measure_union₀ ht hd, ENNReal.toReal_add h₁ h₂]
+
+theorem measureReal_union₀' (hs : NullMeasurableSet s μ) (hd : AEDisjoint μ s t)
+    (h₁ : μ s ≠ ∞ := by finiteness) (h₂ : μ t ≠ ∞ := by finiteness) :
+    μ.real (s ∪ t) = μ.real s + μ.real t := by
+  rw [union_comm, measureReal_union₀ hs (AEDisjoint.symm hd) h₂ h₁, add_comm]
+
+theorem measureReal_add_measureReal_compl₀ [IsFiniteMeasure μ] {s : Set α}
```
Comment (kkytola) [inline PFR/MeasureReal.lean:168]: Is the correct design choice to state this assuming instance `[IsFiniteMeasure μ]` or is it better to assume `(h : μ univ ≠ ∞ := by finiteness)` and let the `finiteness` tactic fill in the proof in particular if an instance `[IsFiniteMeasure μ]` is around. One could argue that there are not many other ways in which the tactic could prove the hypothesis, but I wonder if there is any robustness difference between the designs...

Comment (sgouezel) [reply PFR/MeasureReal.lean:168]: It is equivalent to have `IsFiniteMeasure μ` and `μ univ ≠ ∞`, but when applying lemmas the experience with autoparams is just a little bit less smooth than with typeclass inference (especially when doing rewrites) so that's why I went for `[IsFiniteMeasure μ]`. Happy to change it if we encounter situations where this creates friction!
